US07902226B2
10-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid
A mixture of ethyl 10-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate (5.60 g, 19.2 mmol), acetic acid (25 ml) and concentrated hydrochloric acid (25 ml) was heated under reflux for 4 hours. After cooling the reaction solution with ice, water (100 ml) was added thereto, and the precipitated crystals were filtered out and then washed with excess water, a small amount of cold ethanol and excess diethyl ether in that order. The crude crystals obtained were then suspended in ethanol (40 ml) and stirred under room temperature. The crystals were filtered out, washed with ethanol, and then dried under a reduced pressure at 80° C. for 17 hours. 4.10 g (81%) of the title compound was thereby obtained in the form of a white powder.

reactant | ethyl 10-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 19.2 mmol, 5.60 g | FC=1C=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC | C15H14FNO4
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 10-fluoro-2,3-dihydro-3-(S)-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 4.10 g, 81% | FC=1C=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O | C13H10FNO4
